US09382188B2
step 3) ethyl 4,4,5,5,5-pentafluoro-3-(3-((methoxymethoxy)methyl)phenyl)pent-2-enoate
Under a nitrogen atmosphere, to a suspension of 60% sodium hydride (481 mg) in THF (15 mL) was added ethyl diethylphosphonoacetate (2.55 mL) at 0° C., and the mixture was stirred at room temperature for 5 min. To the obtained colorless solution was added 2,2,3,3,3-pentafluoro-1-(3-((methoxymethoxy)methyl)phenyl)propan-1-one (1.28 g) at room temperature, and the mixture was stirred at 0° C. for 30 min. Water was added to the reaction mixture at room temperature, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (1.37 g) as a pale-yellow oil.

reactant | sodium hydride | 481 mg | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 2.55 mL | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | 2,2,3,3,3-pentafluoro-1-(3-((methoxymethoxy)methyl)phenyl)propan-1-one | 1.28 g | FC(C(=O)C1=CC(=CC=C1)COCOC)(C(F)(F)F)F | C12H11F5O3
reactant | Water | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | ethyl 4,4,5,5,5-pentafluoro-3-(3-((methoxymethoxy)methyl)phenyl)pent-2-enoate | 1.37 g | FC(C(=CC(=O)OCC)C1=CC(=CC=C1)COCOC)(C(F)(F)F)F | C16H17F5O4
